US07217723B2
2-Amino-1-(2,4-difluorophenyl)-ethanol-hydrochloride
N-[2-(2,4-difluorophenyl)-2-hydroxy-ethyl]-formamide (1.0 g) was dissolved in methanol (2 mL), 4N hydrochloric acid/ethyl acetate (60 mL) was added. After stirring at 60° C. for 3 hours, the solution was allowed to cooled down to room temperature, and the solid that were generated by adding ethyl acetate (50 mL) was collected by filtration, washed with ethyl acetate, and the title compound (770 mg) was obtained as a colorless solid.

reactant | N-[2-(2,4-difluorophenyl)-2-hydroxy-ethyl]-formamide | 1.0 g | FC1=C(C=CC(=C1)F)C(CNC=O)O | C9H9F2NO2
reactant | hydrochloric acid ethyl acetate | 4N, 60 mL | Cl.C(C)(=O)OCC
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 2 mL | CO | CH4O
product | 2-Amino-1-(2,4-difluorophenyl)-ethanol-hydrochloride | 770 mg | Cl.NCC(O)C1=C(C=C(C=C1)F)F | InChI=1S/C8H9F2NO.ClH/c9-5-1-2-6(7(10)3-5)8(12)4-11;/h1-3,8,12H,4,11H2;1H
